### ISSUE TITLE
Completion for tactics

### ISSUE THREAD

**Issue by digama0** [leanprover/lean4#1651]
easy:
```lean
example : 1 + 1 = 2 := by
  sim
   --^ textDocument/completion
```
harder:
```lean
example : 1 + 1 = 2 := by
  skip
  
--^ textDocument/completion
  done
```
hardest:
```lean
example : 1 + 1 = 2 := by
  
--^ textDocument/completion
```

**Comment by leodemoura** [comment]
Only the easy case is currently implemented.
